US07897607B2
4-Bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carbonyl chloride hydrochloride
To 8 mL of thionyl chloride was added 1.2 g (3.9 mmol) of 4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylic acid and 2 drops of DMF. The solution was heated to 75° C. for 4 h. The resulting slurry was cooled to room temperature and the white precipitate was collected by filtration. The precipitate was then slurried in ethyl acetate, collected by filtration and dried to give 0.81 g of the title compound as a white solid. The original filtrate was also concentrated and slurried in ethyl acetate to give an additional 0.21 g of the title compound. The overall yield of the title compound was 1.02 g (74%).

reactant | thionyl chloride | 8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylic acid | 3.9 mmol, 1.2 g | BrC=1N=CN(C1C(=O)O)C1=C(C=C(C=C1)C)C | C12H11BrN2O2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 4-Bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carbonyl chloride hydrochloride | 0.81 g | Cl.BrC=1N=CN(C1C(=O)Cl)C1=C(C=C(C=C1)C)C | InChI=1S/C12H10BrClN2O.ClH/c1-7-3-4-9(8(2)5-7)16-6-15-11(13)10(16)12(14)17;/h3-6H,1-2H3;1H
